US05451596
A mixture of trans-2-aminocycloheptanol (0.97 g; 7.74 mmol), triphenylmethyl chloride (2.16 g; 7.74 mmol) and triethylamine (2.70 ml; 19.35 mmol) are combined in about 100 ml CH2Cl2 and heated to reflux overnight. After removing the heat, the reaction mixture is concentrated in vacuo and flash chromatographed using hexane:ethylacetate; 9:1 to obtain trans-2-triphenylmethylaminocycloheptanol which is used directly in the next step.

reactant | trans-2-aminocycloheptanol | 7.74 mmol, 0.97 g | N[C@H]1[C@@H](CCCCC1)O | C7H15NO
reactant | triphenylmethyl chloride | 7.74 mmol, 2.16 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
reactant | triethylamine | 19.35 mmol, 2.70 ml | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | about 100 ml | C(Cl)Cl | CH2Cl2
product | trans-2-triphenylmethylaminocycloheptanol | C1(=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)N[C@H]1[C@@H](CCCCC1)O | C26H29NO
